US04880809
A mixture of 3-benzyloxy-2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one (3.2 g), sodium methoxide (2.8 g) and dimethyl carbonate (100 ml) is heated for four hours under reflux in a stream of nitrogen. The reaction mixture is poured into ice-water containing concentrated hydrochloric acid (10 ml), and extracted with ethyl acetate. The organic layer is washed with water, dried and concentrated under reduced pressure to afford 3-benzyloxy-2-methoxy-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylic acid methyl ester (3.7 g) as a pale yellow oily product.

reactant | 3-benzyloxy-2-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 3.2 g | C(C1=CC=CC=C1)OC1=CC2=C(CCCCC2=O)C=C1OC | C19H20O3
reactant | sodium methoxide | 2.8 g | C[O-].[Na+]
reactant | dimethyl carbonate | 100 ml | C(OC)(OC)=O | C3H6O3
product | 3-benzyloxy-2-methoxy-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-6-carboxylic acid methyl ester | 3.7 g | COC(=O)C1C(C2=C(CCC1)C=C(C(=C2)OCC2=CC=CC=C2)OC)=O | C21H22O5
